### ISSUE TITLE
feat(Ch5): assemble polyToTensor_rightTransl + corollary on top of #2496 foundations [unblocked — #2511 merged]

### ISSUE THREAD

**Issue by kim-em** [FormalFrontier/Etingof-RepresentationTheory-draft1#2510]
## Current state

Foundations for #2496 are landed in PR #2511 (filling them in here once that
PR opens). The file `EtingofRepresentationTheory/Chapter5/PolynomialTensorBridge.lean`
has:

- **Definitions**: `polyRightTransl g` (alg hom on `MvPolynomial (Fin N × Fin N) k`
  sending `X ij ↦ Σ_l X (ij.1, l) * C (g l ij.2)`), `tgtGLAction g` (linear map
  on `V^⊗n ⊗ (V^*)^⊗n` acting via `g^⊗n` on first factor, identity on second).
- **Action expansions**: `tgtGLAction_seqTensor` (multilinear expansion via
  `PiTensorProduct.map_tprod` + `MultilinearMap.map_sum` + `map_smul_univ`),
  `tgtGLAction_symTensor` (the bijection `(σ, b) ↔ (σ, b ∘ σ⁻¹)` matches the
  inner sum on each side).
- **Polynomial-side helpers**: `polyRightTransl_X` (single generator),
  `polyRightTransl_prod` (product expansion via `Finset.prod_univ_sum`),
  `prod_X_eq_monomial_fn` (`∏_l X (f l) = monomial (Σ_l Finsupp.single (f l) 1) 1`).

What's missing is the bridge between `polyToTensor` and `symTensor` on a
sequence: `polyToTensor (∏_l X (f l)) = symTensor f`. This in turn requires
**multiset-invariance of `symTensor`**, which has no Mathlib lemma.

## Deliverables

Add the following to
`EtingofRepresentationTheory/Chapter5/PolynomialTensorBridge.lean` (after the
existing `polyRightTransl_prod`):

### 1. Multiset-invariance helper (the technical heart)

```lean
private noncomputable def matchingPerm (α : Type*) [DecidableEq α] :
    ∀ {n : ℕ} (f g : Fin n → α),
    Multiset.map f (Finset.univ : Finset (Fin n)).val =
      Multiset.map g (Finset.univ : Finset (Fin n)).val →
    {σ : Equiv.Perm (Fin n) // g = f ∘ σ}
```

Construct by induction on `n`: in the `n+1` case, find `l₀` with `f l₀ = g 0`
(using `Multiset.mem_map`), reduce to `f' := f ∘ l₀.succAbove`,
`g' := g ∘ Fin.succ` (multisets agree by `Multiset.cons_inj_right` after
peeling the head), recurse to get `σ' : Equiv.Perm (Fin n)`, and assemble
`σ := Fin.cases l₀ (fun j => l₀.succAbove (σ' j))`. Bijectivity follows from
injectivity (via `Fin.succAbove_ne` and `σ'.injective`) plus
`Finite.injective_iff_bijective`.

Then derive:

```lean
lemma symTensor_eq_of_multiset_eq (f g : Fin n → Fin N × Fin N)
    (h : Multiset.map f (Finset.univ : Finset (Fin n)).val =
         Multiset.map g (Finset.univ : Finset (Fin n)).val) :
    symTensor k N n f = symTensor k N n g := by
  obtain ⟨σ, hσ⟩ := matchingPerm _ f g h
  rw [hσ, symTensor_comp_perm]
```

### 2. `polyToTensor_prod_X`

```lean
lemma polyToTensor_prod_X (f : Fin n → Fin N × Fin N) :
    polyToTensor k N n (∏ l : Fin n, MvPolynomial.X (R := k) (f l)) =
      symTensor k N n f
```

Proof: rewrite via `prod_X_eq_monomial_fn` to `monomial (Σ_l single (f l) 1) 1`,
unfold `polyToTensor` on a basis monomial to `multisetToTensor (Σ_l single (f l) 1)`,
unfold `multisetToTensor` to `symTensor (canonicalSeq ...)`, and apply
`symTensor_eq_of_multiset_eq` (both sides have multiset `Σ_l Finsupp.single (f l) 1`'s
underlying multiset, which is the multiset of `f`).

### 3. Main theorem

```lean
theorem polyToTensor_rightTransl (g : Matrix (Fin N) (Fin N) k)
    (p : MvPolynomial (Fin N × Fin N) k) :
    polyToTensor k N n (polyRightTransl k N g p) =
      tgtGLAction k N n g (polyToTensor k N n p)
```

Proof: by linearity in `p` (induct via `MvPolynomial.induction_on'` or use
`Module.Basis.ext` on `basisMonomials`), reduce to `monomial s c`. By scaling,
`c = 1`. Two cases:
* `|s| ≠ n`: `polyToTensor (monomial s 1) = multisetToTensor s = 0` so RHS = 0;
  for LHS, `polyRightTransl g (monomial s 1)` is homogeneous of degree `|s|` so
  `polyToTensor` kills it.
* `|s| = n`: rewrite `monomial s 1 = ∏_l X (canonicalSeq s _ l)` via
  `prod_X_canonicalSeq.symm`, apply `polyRightTransl_prod`, push `polyToTensor`
  through the `c`-sum (linear), apply `polyToTensor_prod_X` to each
  `∏_l X((canonicalSeq l).1, c l)` to get `symTensor (...)`. The result matches
  `tgtGLAction_symTensor (canonicalSeq s _)` term-by-term.

### 4. Corollary

```lean
theorem homogeneousPolyToTensor_equivariant (g : Matrix (Fin N) (Fin N) k)
    (p : MvPolynomial.homogeneousSubmodule (Fin N × Fin N) k n) :
    ∃ (hp : polyRightTransl k N g p.val ∈
        MvPolynomial.homogeneousSubmodule (Fin N × Fin N) k n),
      homogeneousPolyToTensor k N n ⟨polyRightTransl k N g p.val, hp⟩ =
        tgtGLAction k N n g (homogeneousPolyToTensor k N n p)
```

Proof: `polyRightTransl g` preserves homogeneous degree because `aeval` at
degree-1 polynomials preserves degree (each `X ij` maps to a sum of degree-1
monomials). Witness `hp` from this, then apply theorem (3).

## Verification

* Zero sorries on the new lemmas/theorems.
* `lake build EtingofRepresentationTheory.Chapter5.PolynomialTensorBridge` and
  full `lake build` succeed.

## Scope

* 1–2 worker sessions. The technical risk is concentrated in (1)
  (`matchingPerm`); (2)–(4) are mechanical given (1) and the foundations
  already landed. (1) may need ~50–100 lines.

## Context

Closes the equivariance half of #2477 (Schur-Weyl #2a). Downstream #2478
needs the corollary to prove its own `polynomialRep_embeds_in_tensorPower`
is GL_N-equivariant.
depends-on: #2511

**Comment by kim-em** [comment]
Session: `8189c438-5fe2-4429-8f22-ead0e69e63d7` Branch: `agent/8189c438`

**Comment by kim-em** [comment]
Superseded by #2527 (which also covers Part A as its first deliverable).

The PR landing for #2527 contains exactly the deliverables originally
planned for this issue:
- `matchingPerm` (private helper for symTensor multiset invariance)
- `symTensor_eq_of_multiset_eq`
- `polyToTensor_prod_X`
- `polyToTensor_rightTransl_of_isHomogeneous` (renamed from
  `polyToTensor_rightTransl`; the homogeneous-only variant suffices for
  current downstream needs)
- `homogeneousPolyToTensor_equivariant`
- `polyRightTransl_isHomogeneous` (preservation of homogeneous submodule)

This issue can be closed once the PR for #2527 (partial) lands.
